US06008230
A suspension of 3-chloromethyl-1,4-dihydro-8-nitro-4-oxoquinoline (2 g) in dichloromethane (70 ml) and methanol (30 ml) was refluxed for 15 minutes and concentrated in vacuo. The crystalline residue was suspended in hot methanol (30 ml), and the mixture was allowed to stand to ambient temperature. The resulting precipitates were collected by filtration to give 1,4-dihydro-3-methoxymethyl-8-nitro-4-oxoquinoline (1.5 g).

reactant | 3-chloromethyl-1,4-dihydro-8-nitro-4-oxoquinoline | 2 g | ClCC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C10H7ClN2O3
reactant | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1,4-dihydro-3-methoxymethyl-8-nitro-4-oxoquinoline | 1.5 g | COCC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C11H10N2O4
